US07585885B2
2-Cyclopropylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid
Treat a solution of 2-cyclopropylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester (261 mg, 0.87 mmol) in methanol (8 mL) with 1 N NaOH (1.3 mL, 1.31 mmol) at room temperature. Stir for 5 h, acidify with 1 N HCl to about pH=3. Extract the reaction mixture with ethyl acetate, dry (sodium sulfate) and concentrate to give the title compound (226 mg, 91%).

reactant | 2-cyclopropylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester | 0.87 mmol, 261 mg | COC(C1=CC(=NC(=C1)N(C)S(=O)(=O)C)NC1CC1)=O | C12H17N3O4S
reactant | NaOH | 1.31 mmol, 1 N, 1.3 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
product | 2-Cyclopropylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid | 226 mg, 91% | C1(CC1)NC=1C=C(C(=O)O)C=C(N1)N(C)S(=O)(=O)C | C11H15N3O4S
